US05180418
Preparation of 1-[2-chloro-4-fluoro-5-(1,2,3,4,5,6-hexahydro-1,3 -dioxo-isoindolyl)-phenylthio]-cyclopropanecarboxylic acid
A mixture of 2.4 g of 1-(5-amino-2-chloro-4-fluoro-phenylthio)-cyclopropanecarboxylic acid, 1.5 g of 3,4,5,6-tetrahydrophthalic anhydride and 100 ml of glacial acetic acid is heated under reflux for 18 hours while stirring. The reaction mixture is then introduced into ice-water and the resulting product is extracted with ethyl acetate. Drying over sodium sulfate and concentration of the solution by evaporation yield 1.7 g of 1-[2-chloro-4-fluoro-5-(1,2,3,4,5,6-hexahydro-1,3-dioxo-isoindolyl)-phenylthio]-cyclopropanecarboxylic acid having a melting point of from +186° to +188° C.

reactant | 1-(5-amino-2-chloro-4-fluoro-phenylthio)-cyclopropanecarboxylic acid | 2.4 g | NC=1C(=CC(=C(C1)SC1(CC1)C(=O)O)Cl)F | C10H9ClFNO2S
reactant | 3,4,5,6-tetrahydrophthalic anhydride | 1.5 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-[2-chloro-4-fluoro-5-(1,2,3,4,5,6-hexahydro-1,3 -dioxo-isoindolyl)-phenylthio]-cyclopropanecarboxylic acid | ClC1=C(C=C(C(=C1)F)N1C(C2=CCCCC2C1=O)=O)SC1(CC1)C(=O)O | C18H15ClFNO4S
